US08071581B2
Step 2: Preparation of (3-bromo-5,7-difluoro-quinolin-6-yl)-acetic acid
A suspension of (3-bromo-5,7-difluoro-quinolin-6-yl)-acetic acid methyl ester (10.0 g, 31.6 mmol) in 48 mL of aqueous NaOH (2N) was heated to reflux for 2 hrs then cooled to r.t. The mixture was washed with dichloromethane (50 mL×2) and the aqueous phase acidified with 5N hydrochloric acid to pH 4. The white precipitate was collected via filtration, washed with water and dried. 9.6 g of the title compound was obtained as white powder in 100% yield. 1H NMR (DMSO-d6): δ 12.87 (s, 1H), 9.05 (s, 1H), 8.76 (s, 1H), 7.75˜7.79 (d, 1H), 3.87 (s, 2H).

reactant | (3-bromo-5,7-difluoro-quinolin-6-yl)-acetic acid methyl ester | 31.6 mmol, 10.0 g | COC(CC=1C(=C2C=C(C=NC2=CC1F)Br)F)=O | C12H8BrF2NO2
solvent | NaOH | 2N, 48 mL | [OH-].[Na+]
product | (3-bromo-5,7-difluoro-quinolin-6-yl)-acetic acid | 9.6 g, 100% yield | BrC=1C=NC2=CC(=C(C(=C2C1)F)CC(=O)O)F | C11H6BrF2NO2
